US04621901
A suspension of 54.4 g of methoxymethyl-triphenylphosphonium chloride in 315 ml of t-butyl methyl ether was treated with 18.8 g of potassium t-butylate while gassing with argon at -10° C. and the orange suspension was stirred for a further 30 minutes at 0° C. The mixture was subsequently treated dropwise with 30 minutes at 0° C. with a solution of 25.1 g of 4-[2-(p-cyanophenyl)ethyl]cyclohexanone in 260 ml of tetrahydrofuran and the mixture was stirred for a further 3 hours at room temperature. Thereafter, the reaction mixture was poured into 2.6 l of hexane, stirred for 10 minutes and suction filtered (rinsing with hexane). The filtrate was concentrated in vacuo at 50° C., whereby 47.7 g of yellow, partially crystalline residue were obtained. Low-pressure chromatography (0.3 bar) of the residue on silica gel with hexane/methylene chloride (vol. 4:1) and methylene chloride gave 21.0 g of p-[2-(4-methoxymethylenecyclohexyl)ethyl]benzonitrile as a yellowish oil; Rf-value (methylene chloride) 0.43.

reactant | methoxymethyl-triphenylphosphonium chloride | 54.4 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-[2-(p-cyanophenyl)ethyl]cyclohexanone | 25.1 g | C(#N)C1=CC=C(C=C1)CCC1CCC(CC1)=O | C15H17NO
reactant | hexane | 2.6 l | CCCCCC | C6H14
reactant | hexane methylene chloride | CCCCCC.C(Cl)Cl
solvent | t-butyl methyl ether | 315 ml | COC(C)(C)C | C5H12O
solvent | tetrahydrofuran | 260 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | p-[2-(4-methoxymethylenecyclohexyl)ethyl]benzonitrile | 21.0 g | COC=C1CCC(CC1)CCC1=CC=C(C#N)C=C1 | C17H21NO
